* Z:\home\marc\S4\circuits\MOSFETs\LAB3\circuit.asc
XU1 N002 P001 N005 nmos3
XU2 N005 N004 N003 nmos3
XU3 N005 P002 0 nmos3
XU4 N001 N002 N002 pmos3
XU5 N003 N002 N001 pmos3
Vdd N001 0 5
Vdm P001 0 2.5
V2 N004 0 2.5
Vb P002 0 0.7
;tran 0 1 0
.include engr2420.sub
.dc Vdm 0 5
.backanno
.end
